* Z:\home\thetheos\Documents\Université\BAC2\Q4.P_Elec\Ressources\allBlocks\RX_differentialAmplifier\differentialAmplifier.asc
XU1 N002 N001 Vcc Vee out TL084
R1 N001 in1 10k
R3 N002 in2 10k
R2 out N001 20k
V1 Vcc 0 15
V2 Vee 0 -15
V3 in1 0 SINE(0 1 1k)
V4 in2 0 1
R4 N002 0 20k
.tran 10m
.include ..\TL084.lib
.backanno
.end
